US07834063B2
A. N-(Cyclopropylmethyl)-4-nitro-3-(trifluoromethyl)aniline
Synthesized as described in Example 1A from 4-fluoro-1-nitro-2-(trifluoromethyl)benzene and (cyclopropylmethyl)amine: MS (APCI) m/z 261 (M+1).

reactant | 4-fluoro-1-nitro-2-(trifluoromethyl)benzene | FC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | (cyclopropylmethyl)amine | C1(CC1)CN | C4H9N
product | N-(Cyclopropylmethyl)-4-nitro-3-(trifluoromethyl)aniline | C1(CC1)CNC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C11H11F3N2O2
